US08476197B2
To a solution of ethyl 3-(3-chloro-4-methyl-2-thienyl)-2-cyano-3-oxopropanoate (15.40 g, 56.67 mmol, 1 eq.) in 200 ml of CHCl3 was added POCl3 (86.9 g, 566 mmol, 10 eq.). Et3N (14.33 g, 141.6 mmol, 2.5 eq.) was added dropwise with stirring at 5° C., and the mixture was refluxed for 4 h. The mixture was evaporated. After evaporation, the mixture was diluted with DCM (CH2Cl2) and with ice water and was extracted with DCM (CH2Cl2) and washed with brine. The organic layers were combined and dried over MgSO4 before concentration under reduced pressure. The residue was subjected to column chromatography on silica gel to give ethyl 3-chloro-3-(3-chloro-4-methyl-2-thienyl)-2-cyanoacrylate (11 g, 66% yield) as a mixture of 2 isomers

reactant | ethyl 3-(3-chloro-4-methyl-2-thienyl)-2-cyano-3-oxopropanoate | 56.67 mmol, 15.40 g, 1 eq. | ClC1=C(SC=C1C)C(C(C(=O)OCC)C#N)=O | C11H10ClNO3S
reactant | POCl3 | 566 mmol, 86.9 g, 10 eq. | O=P(Cl)(Cl)Cl | Cl3OP
reactant | Et3N | 141.6 mmol, 14.33 g, 2.5 eq. | CCN(CC)CC | C6H15N
solvent | CHCl3 | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 3-chloro-3-(3-chloro-4-methyl-2-thienyl)-2-cyanoacrylate | 11 g, 66% yield | ClC(=C(C(=O)OCC)C#N)C=1SC=C(C1Cl)C | C11H9Cl2NO2S
